US05877317
A mixture of (4S)-4-(phenylmethyl)-3-(2-phenylpropionyl)-2-oxazolidinone (XLI, Isomer I, 2.651 g, 8.57 mmol) in THF (10 ml) is added dropwise to a cooled slurry of lithium aluminum hydride (0.3518 g, 9.27 mmol) in THF (10 ml). After the mixture had stirred for 28 min at 0°, water (0.35 ml) is added and the mixture is stirred for 15 min. Sodium hydroxide (15% aqueous solution, 0.35 ml) is added and again the mixture is allowed to stir for 15 min. After the final addition of water (1.05 ml), the salts are removed by filtration and washed with ether. The combined filtrates are washed with saline, dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel eluting with ethyl acetate/hexane (15/85). The appropriate fractions are pooled and concentrated to give 2-phenylpropanol (XLIII, Isomer Ia), NMR (CDCl3) 1.28, 1.35, 2.95, 3.71 and 7.26 δ.

reactant | (4S)-4-(phenylmethyl)-3-(2-phenylpropionyl)-2-oxazolidinone | 8.57 mmol, 2.651 g | C1(=CC=CC=C1)C[C@@H]1N(C(OC1)=O)C(C(C)C1=CC=CC=C1)=O | C19H19NO3
reactant | lithium aluminum hydride | 9.27 mmol, 0.3518 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.35 ml | O | H2O
reactant | Sodium hydroxide | 0.35 ml | [OH-].[Na+]
reactant | water | 1.05 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-phenylpropanol | C1(=CC=CC=C1)C(CO)C | C9H12O
